US09056859B2
Step B: 5-allyl-4-fluoro-2-benzofuran-1(3H)-one
To a flask charged with 5-bromo-4-fluoro-2-benzofuran-1(3H)-one (52 mg, 0.22 mmol) and a stir bar was added allyl tri-n-butyltin (0.10 mL, 0.34 mmol), palladium tetrakis (39 mg, 0.034 mmol), lithium chloride (29 mg, 0.68 mmol), and toluene (5 mL). The mixture was purged three times with nitrogen, and heated to reflux for 4 hours. LC showed formation of the desired product, which was purified by silica gel chromatography to deliver 5-allyl-4-fluoro-2-benzofuran-1(3H)-one. LC-MS (IE, m/z): 193 [M+1]+;

reactant | 5-bromo-4-fluoro-2-benzofuran-1(3H)-one | 0.22 mmol, 52 mg | BrC1=C(C2=C(C(OC2)=O)C=C1)F | C8H4BrFO2
reactant | allyl tri-n-butyltin | 0.34 mmol, 0.10 mL | C(C=C)[Sn](CCCC)(CCCC)CCCC
reactant | lithium chloride | 0.68 mmol, 29 mg | [Cl-].[Li+]
catalyst | palladium tetrakis | 0.034 mmol, 39 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 5-allyl-4-fluoro-2-benzofuran-1(3H)-one | C(C=C)C1=C(C2=C(C(OC2)=O)C=C1)F | C11H9FO2
